US07479502B2
Proceeding as in Reference 19, but substituting 3-bromo-5-formyl-4-methoxy-benzenesulfonamide and 3-methoxybenzene boronic acid, gave 5-formyl-3′,6-dimethoxy-biphenyl-3-sulfonic acid amide.

reactant | 3-bromo-5-formyl-4-methoxy-benzenesulfonamide | BrC=1C=C(C=C(C1OC)C=O)S(=O)(=O)N | C8H8BrNO4S
reactant | 3-methoxybenzene boronic acid | COC=1C=C(C=CC1)B(O)O | C7H9BO3
product | 5-formyl-3′,6-dimethoxy-biphenyl-3-sulfonic acid amide | C(=O)C=1C=C(C=C(C1OC)C1=CC(=CC=C1)OC)S(=O)(=O)N | C15H15NO5S
